US06358980B1
4-(4-but-2-ynyloxybenzenesulfonyl)-1-(2-thienylcarbonyl)-4-piperidinecarboxylic acid was prepared following the procedure of Example 64 (step 5). Starting from Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-(2-thienylcarbonyl)-4-piperidinecarboxylate (435 mg, 0.94 mmol) in 8 ml of tetrahydrofuran:methanol (1:1), and 1N sodium hydroxide (1.89 ml, 1.89 mmol) to obtain 360 mg (86%) of the acid. HR-MS: m/z Calculated for C21H21NO6S2 448.0883; Found 448.0882.

reactant | Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-(2-thienylcarbonyl)-4-piperidinecarboxylate | 0.94 mmol, 435 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1SC=CC1)C(=O)OC | C22H23NO6S2
reactant | sodium hydroxide | 1.89 mmol, 1N, 1.89 ml | [OH-].[Na+]
solvent | tetrahydrofuran methanol | 8 ml | O1CCCC1.CO
product | 4-(4-but-2-ynyloxybenzenesulfonyl)-1-(2-thienylcarbonyl)-4-piperidinecarboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1SC=CC1)C(=O)O | C21H21NO6S2
